US07691902B2
A mixture of 4-bromo-2-cyano-N,N-dimethylbenzenesulfonamide (110 mg, 0.38 mmol) and 1N aqueous NaOH (2.0 mL, 2.0 mmol) in 1,4-dioxane (2 mL) was heated at reflux. The cooled reaction mixture was washed with dichloromethane (5 mL). The aqueous layer was acidified by the addition of 1N aqueous HCl. The acidified aqueous layer was extracted with dichloromethane (2×5 mL). The combined organics were dried over Na2SO4 and evaporated to dryness to yield 5-bromo-2-(N,N-dimethylsulfamoyl)benzoic acid in 34% yield (40 mg, 0.13 mmol). ESI-MS m/z calc. 307.0, found 308.1 (M+1)+; retention time 1.13 minutes.

reactant | 4-bromo-2-cyano-N,N-dimethylbenzenesulfonamide | 0.38 mmol, 110 mg | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)C)C#N | C9H9BrN2O2S
reactant | NaOH | 2.0 mmol, 1N, 2.0 mL | [OH-].[Na+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-2-(N,N-dimethylsulfamoyl)benzoic acid | 34% yield | BrC=1C=CC(=C(C(=O)O)C1)S(N(C)C)(=O)=O | C9H10BrNO4S
